US07241798B2
Mixture of diastereomers, one being (1R,2S,5S)-1-{[((1aR,7bS)-6-methoxy-3-methyl-2-oxo-1a,2,3,7b-tetrahydro-1H-3-aza-cyclopropa[a]naphthalen-5-ylmethyl)-amino]-methyl}-2-phenyl-3-aza-bicyclo[3.1.0]hexane-3-carboxylic acid tert-butyl ester
Racemic Intermediate 21, one enantiomer being (1R,2S,5S)-1-aminomethyl-2-phenyl-3-aza-bicyclo[3.1.0]hexane-3-carboxylic acid tert-butyl ester (0.055 g, 0.19 mmol) was combined with (1aR,7bS)-6-methoxy-3-methyl-2-oxo-1a,2,3,7b-tetrahydro-1H-3-aza-cyclopropa[a]naphthalene-5-carbaldehyde (0.046 g, 0.20 mmol) in methylene chloride (3 mL) and the mixture was stirred for 3.0 hours. APCI mass spec showed complete imine formation (m+1: 503). Methanol (1.0 mL) and sodium triacetoxyborohydride (0.053 g, 0.25 mmol) were added and the reaction allowed to stir for 16 hours. The solvent was removed at reduced pressure and the residue was partitioned between saturated sodium bicarbonate solution and methylene chloride, the organic layer was washed with brine, dried over sodium sulfate, filtered, and concentrated to give the title compound as a white foam (0.10 g, quantitative crude yield). This material was used without further purification.

reactant | (1R,2S,5S)-1-aminomethyl-2-phenyl-3-aza-bicyclo[3.1.0]hexane-3-carboxylic acid tert-butyl ester | 0.19 mmol, 0.055 g | C(C)(C)(C)OC(=O)N1[C@H]([C@@]2(C[C@@H]2C1)CN)C1=CC=CC=C1 | C17H24N2O2
reactant | (1aR,7bS)-6-methoxy-3-methyl-2-oxo-1a,2,3,7b-tetrahydro-1H-3-aza-cyclopropa[a]naphthalene-5-carbaldehyde | 0.20 mmol, 0.046 g | COC1=C(C=C2N(C([C@H]3[C@@H](C2=C1)C3)=O)C)C=O | C13H13NO3
reactant | Methanol | 1.0 mL | CO | CH4O
reactant | sodium triacetoxyborohydride | 0.25 mmol, 0.053 g | C(C)(=O)O[BH-](OC(C)=O)OC(C)=O.[Na+]
solvent | methylene chloride | 3 mL | C(Cl)Cl | CH2Cl2
product | (1R,2S,5S)-1-{[((1aR,7bS)-6-methoxy-3-methyl-2-oxo-1a,2,3,7b-tetrahydro-1H-3-aza-cyclopropa[a]naphthalen-5-ylmethyl)-amino]-methyl}-2-phenyl-3-aza-bicyclo[3.1.0]hexane-3-carboxylic acid tert-butyl ester | 0.10 g | C(C)(C)(C)OC(=O)N1[C@H]([C@@]2(C[C@@H]2C1)CNCC=1C=C2N(C([C@H]3[C@@H](C2=CC1OC)C3)=O)C)C3=CC=CC=C3 | C30H37N3O4
